US06387911B1
2-Cyano-3-methylthiopyridine
A stirred solution of 1.00 g (8.19 mmol) of 2-cyano-3-fluoropyridine and 0.631 g (9.01 mmol) of sodium thiomethoxide in 8 mL of DMF was stirred at room temperature for 1 h. The reaction mixture was diluted with water (80 mL) and stirred for 5 min. The resulting solid was filtered and dried on a high vacuum line to give the product as an off-white solid: 1H NMR (CDCl3) δ8.46 (d,1H, 4.6 Hz), 7.66 (d, 1H, 8.3 Hz), 7.44 (dd, 1H, 4.6, 8.3 Hz), 2.58 (s, 3H).

reactant | 2-cyano-3-fluoropyridine | 8.19 mmol, 1.00 g | C(#N)C1=NC=CC=C1F | C6H3FN2
reactant | sodium thiomethoxide | 9.01 mmol, 0.631 g | C[S-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 80 mL | O | H2O
product | 2-Cyano-3-methylthiopyridine | C(#N)C1=NC=CC=C1SC | C7H6N2S
